US04757080
(a) 1,4-Dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-(6-phthalimidohexyloxy)carbonyl-pyridine
12.0 g (26 mmol) of 2-(3-nitrobenzylidene)-acetoacetic acid-(6-phthalimidohexyl)ester and 3.0 g (26 mmol) of 3-amino-crotonic acid methyl ester are boiled under reflux in 100 ml of isopropanol for 4 hours. After removal of the solvent by evaporation under vacuum, 15.0 g of a brownish yellow oil suitable for reactions without further purification are obtained.

reactant | 2-(3-nitrobenzylidene)-acetoacetic acid-(6-phthalimidohexyl)ester | 26 mmol, 12.0 g | C1(C=2C(C(N1CCCCCCOC(C(C(=O)C)=CC1=CC(=CC=C1)[N+](=O)[O-])=O)=O)=CC=CC2)=O | C25H24N2O7
reactant | 3-amino-crotonic acid methyl ester | 26 mmol, 3.0 g | COC(\C=C(\C)/N)=O | C5H9NO2
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 1,4-Dihydro-2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-(6-phthalimidohexyloxy)carbonyl-pyridine | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C30H31N3O8
